2144-05-09 06:29:00 Physician Resident Progress Note
Chief Complaint: BRBPR
   24 Hour Events: tolerating prep well, hd stable , Son pointed pointed
   out presumed TIC bite in RIGHT thigh. No target lesion. Mild erythema.
   No fluctuance or discomfort.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Negative
 Denies pain
   Flowsheet Data as of  [**2144-5-9**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 71 (59 - 109) bpm
   BP: 128/73(85) {104/62(72) - 151/83(99)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,366 mL
                                                                  2,485 mL
   PO:
                                                                  2,000 mL
                                                                  2,000 mL
   TF:
   IVF:
                                                                    366 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                  1,300 mL
   Urine:
                                                                    700 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,666 mL
                                                                  1,185 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley, 1x1 cm erythematous area right thigh near groin
   fluctuance, nontender
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   250 K/uL
   12.3 g/dL
   116 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   11 mg/dL
   112 mEq/L
   147 mEq/L
   37.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2144-5-8**]  06:48 PM
                             [**2144-5-9**]  02:21 AM
   WBC
   6.6
   Hct
   36.8
   37.6
   Plt
   250
   Cr
   0.8
   Glucose
   116
   Other labs: PT / PTT / INR:12.0/36.7/1.0, Differential-Neuts:71.7 %,
   Lymph:21.2 %, Mono:4.8 %, Eos:2.2 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   72 yo M with a past medical history of hypertension and dyslipidemia,
   with recent colonoscopy with multiple polypectomy and large fungating
   bleeding mass, now presents with 2 days of hematochezia
   .
   # GI Bleed: Given findings of recent colonoscopy, likely related to
   fungating mass in the sigmoid colon. Given that he is not
   anticoagulated, bleeding from polypectomy sites seem less likely. No
   hemodynamic compromise and Hct stable in mid 30s x3.
   - Appreciate GI input and Surgery input (no scope today)
   - Colonoscopy in today
   - Q8H Hct
   - 2 peripheral IVs
   - Active T and S
   - Continue home ppi orally given less likely UGIB
   - Telemetry
   - Surgery consult if decompensates
   .
   # ? tic bite: Consider doxycycline 200 mg x1 for ppx
   .
   # Hypernatremia: Likely due to free water deficit in the setting of
   colonoscopy prep. FW deficit 2L.
   - Continue D51/2 NS maint fluid while NPO
   .
   # Hypertension: Hold Norvasc in setting of GIB; restart for stable
   pressures
   .
   # Dyslipidemia: Continue Statin
   .
   # Insominia: Hold ambien for now
   .
   # FEN: D51/2 NS 75 cc/hr, replete electrolytes, NPO
   # Prophylaxis: Pneumoboots, PPI
   # Access: peripherals x 3
   # Communication: Patient, Son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 12360**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
 call out today
   ICU Care
   Nutrition:
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2144-5-8**] 06:29 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: Son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 12360**]

2144-05-10 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**2144-5-9**]:
   - Doxycycline x 1 given for Lyme Ppx
   - Bowel prep postponed since no scope this weekend
   - No overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-5-10**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 61 (58 - 102) bpm
   BP: 120/65(79) {104/57(69) - 145/98(105)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  4,250 mL
                  PO:
                                                                  2,750 mL
                  TF:
   IVF:
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    500 mL
   Urine:
                                                                  3,000 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,250 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley, 1-mm pustule at site of tick bite, raised, some
   surrounding erythema
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   241 K/uL
   11.8 g/dL
   98 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   10 mg/dL
   110 mEq/L
   143 mEq/L
   35.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2144-5-8**]  06:48 PM
                             [**2144-5-9**]  02:21 AM
                             [**2144-5-10**]  04:01 AM
   WBC
   6.6
   6.9
   Hct
   36.8
   37.6
   35.7
   Plt
   250
   241
   Cr
   0.8
   0.8
   Glucose
   116
   98
   Other labs: PT / PTT / INR:12.0/36.7/1.0, Differential-Neuts:71.7 %,
   Lymph:21.2 %, Mono:4.8 %, Eos:2.2 %, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   72 yo M with a past medical history of hypertension and dyslipidemia,
   with recent colonoscopy with multiple polypectomy and large fungating
   bleeding mass, now presents with 2 days of hematochezia.
   .
   # GI Bleed: Given findings of recent colonoscopy, likely related to
   fungating mass in the sigmoid colon. Given that he is not
   anticoagulated, bleeding from polypectomy sites seem less likely. No
   hemodynamic compromise and Hct stable in mid 30s still today, no
   further bleeding.
   - Appreciate GI input and Surgery input (no scope today).
   - Colonoscopy Monday per GI
 will prep tonight
   - 2 peripheral IVs
   - Active T and S
   - Continue home ppi orally given less likely UGIB
   - Telemetry
   - Surgery consult if decompensates
   .
   # ? tic bite: Currently there is a small 1-mm pustule at the site of
   the bite. Does not seem to bother patient although no interpreter
   present to evaluate. Received doxycycline 200 mg x1 for Lyme ppx
   .
   # Hypernatremia: Likely due to free water deficit in the setting of
   colonoscopy prep. FW deficit 2L. Resolved with AM labs today.
   .
   # Hypertension: Hold Norvasc in setting of GIB; restart for stable
   pressures after colonoscopy unless hypertensive.
   .
   # Dyslipidemia: Continue statin
   .
   # Insominia: Hold Ambien for now
   .
   # FEN: D51/2 NS 75 cc/hr, replete electrolytes, regular diet until prep
   # Prophylaxis: Pneumoboots, PPI
   # Access: peripherals x 3
   # Communication: Patient, Son [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 12360**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
 call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-5-8**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: